US07335658B2
6-[4-(4-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 4-fluoro-2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (83.5% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.97, 7.46-7.42, 7.39-7.29, 6.97, 4.07-4.01, 3.89-3.67, 3.58-3.51, 3.36-3.32, 1.53-147, 0.76-0.69, 0.48-0.42, 0.10-0.06. 13C NMR (75 MHz, CDCl3) δ 166.7, 163.9, 162.8, 160.6, 159.9, 145.4, 129.6, 129.5, 127.0, 119.7, 119.4, 114.8, 114.7, 114.4, 114.38, 112.5, 44.4, 44.5, 44.3, 41.3, 39.6, 34.4, 8.6, 4.1. MS (ES+) m/z 466.1 (M+1).

reactant | 4-fluoro-2-trifluoromethylbenzoyl chloride | FC1=CC(=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(4-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=C(C=C1)F)C(F)(F)F)=O | C22H23F4N5O2
